US08247403B2
(6) 9-(pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A solution of tert-butyl 9-(pyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (90.0 mg, 0.283 mmol) in 4N hydrogen chloride-ethyl acetate (3 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (25.4 mg, 30.9%) as a solid.

reactant | tert-butyl 9-(pyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.283 mmol, 90.0 mg | N1(CCCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H26N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 3 ml | C(C)(=O)OCC.Cl
product | 9-(pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 25.4 mg, 30.9% | Cl.Cl.N1(CCCC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C13H18N2O.2ClH/c1-2-8-15(7-1)12-5-3-4-11-10-14-6-9-16-13(11)12;;/h3-5,14H,1-2,6-10H2;2*1H
